US05587480
BENZOYLOXYACETALDEHYDE
This known intermediate was prepared by portionwise addition of NaIO4 (80 g) to a mixture of 1-benzoyl glycerol (50 g), CH2Cl2 (500 ml), and H2O (25 ml) under vigorous stirring at room temperature. The resulting solution was stirred for 2 hours, MgSO4 (100 g) was added and the solution stirred for an additional 30 minutes. The mixture was filtered, the filtrate evaporated in vacuo and the residue distilled in vacuo to yield 26 g of pure product.

reactant | 1-benzoyl glycerol | 50 g | C(C1=CC=CC=C1)(=O)OCC(O)CO | C10H12O4
reactant | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
reactant | MgSO4 | 100 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | H2O | 25 ml | O | H2O
product | BENZOYLOXYACETALDEHYDE | 26 g | C(C1=CC=CC=C1)(=O)OCC=O | C9H8O3
